US05432182
A solution of 3-butyryl-4-(2-methylphenylamino)-8-hydroxyquinoline (3.20 g, 10 mmol) and potassium t-butoxide (1.47 g, 12 mmol) in dry tetrahydrofuran (100 ml) was heated at reflux for 5 minutes, then 2-methoxyethyl benzenesulphonate (4.33 g, 20 mmol) added and hearing continued for 18 hours. Evaporation of the solvent, chromatography (silica gel, 1-2% methanol in dichloromethane) and recrystallisation from ethyl acetate gave 3-butyryl-4-(2-methylphenylamino)-8-(2-methoxy-ethoxy)quinoline (1.42 g, 38%), m.p. 75°-77°.

reactant | 3-butyryl-4-(2-methylphenylamino)-8-hydroxyquinoline | 10 mmol, 3.20 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)O | C20H20N2O2
reactant | potassium t-butoxide | 12 mmol, 1.47 g | CC(C)([O-])C.[K+]
reactant | 2-methoxyethyl benzenesulphonate | 20 mmol, 4.33 g | C1(=CC=CC=C1)S(=O)(=O)OCCOC | C9H12O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-butyryl-4-(2-methylphenylamino)-8-(2-methoxy-ethoxy)quinoline | 1.42 g, 38% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCOC | C23H26N2O3
